US08212041B2
A solution of 1-(4-bromo-2-chlorophenyl)ethanone (2.430 g, 10 mmol), ammonia, 2.0 m solution in methanol (26 ml, 52 mmol) and titanium (iv) isopropoxide (6 ml, 21 mmol) was stirred for 16 h in a sealed vessel. Reaction then added to a freshly made suspension of sodium borohydride powder, 98% (4 g, 104 mmol) in MeOH (20 mL). Exothermic reaction started at 9:45 am, then continued to stir with a 45° C. external heating bath for 45 min. Water (10 mL) then added to reaction and stirred for an additional 10 min. Resulting white solid removed via filtration through Celite, and filtrated reduced in volume under reduced pressure. This suspension then partioned between 9:1 CHCl3/IPA (30 mL) and 1M NaOH (10 mL). Aqueous further extracted with 9:1 CHCl3/IPA (2×10 mL). Combined organics dried over MgSO4, concentrated, then purified on silica (80 g) eluting with 0>5% 2M NH3 in MeOH/DCM. MS (ESI pos. ion) m/z: 234/236 (MH+). Calc'd exact mass for C8H9BrClN: 233/235. 1-(4-bromo-2-chlorophenyl)ethanamine isolated as a colorless oil.

reactant | 1-(4-bromo-2-chlorophenyl)ethanone | 10 mmol, 2.430 g | BrC1=CC(=C(C=C1)C(C)=O)Cl | C8H6BrClO
reactant | ammonia | N | H3N
reactant | sodium borohydride | [BH4-].[Na+]
reactant | Water | 10 mL | O | H2O
solvent | MeOH | 20 mL | CO | CH4O
catalyst | titanium (iv) isopropoxide | 21 mmol, 6 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | methanol | 52 mmol, 26 ml | CO | CH4O
product | 1-(4-bromo-2-chlorophenyl)ethanamine | BrC1=CC(=C(C=C1)C(C)N)Cl | C8H9BrClN
